US07452880B2
To a dichloromethane solution of (2-chlorophenyl)-(3,5-dichloropyrazin-2-yl)methanol (7.1 g, 24.5 mmol) was added portion wise solid manganese (IV) oxide (25 g, 245 mmol) and the resulting mixture was stirred at room temperature overnight. The reaction mixture was filtered and the filtrate was concentrated to give (2-chlorophenyl)-(3,5-dichloropyrazin-2-yl)methanone (6.02 g, 21 mmol, 85% yield). Mass spec., M+1=288.

reactant | (2-chlorophenyl)-(3,5-dichloropyrazin-2-yl)methanol | 24.5 mmol, 7.1 g | ClC1=C(C=CC=C1)C(O)C1=NC=C(N=C1Cl)Cl | C11H7Cl3N2O
catalyst | manganese (IV) oxide | 245 mmol, 25 g | [O-2].[Mn+4].[O-2]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2-chlorophenyl)-(3,5-dichloropyrazin-2-yl)methanone | 21 mmol, 6.02 g, 85% yield | ClC1=C(C=CC=C1)C(=O)C1=NC=C(N=C1Cl)Cl | C11H5Cl3N2O
